US07495103B2
3-Cyclopentyl-1H-indol-6-ylamine (B-15) was synthesized following the general scheme above starting from 6-nitroindole and iodo-cyclopentane. Overall yield (16%). HPLC ret. time 2.39 min, 10-99% CH3CN, 5 min run; ESI-MS 201.5 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | iodo-cyclopentane | IC1CCCC1 | C5H9I
solvent | CH3CN | CC#N | C2H3N
product | 3-Cyclopentyl-1H-indol-6-ylamine | C1(CCCC1)C1=CNC2=CC(=CC=C12)N | C13H16N2
